US05688810
(R/S)-7-Amino-4-ethyl-1,2,3,4-tetrahydroquinoline (structure 61A of Scheme XLVIII, where R1-3 =H, R4 =ethyl).
A 25-mL rb flask containing (R/S)-4-ethyl-1,2,3,4-tetrahydroquinoline (340 mg, 2.1 mmol) was cooled to -10° C., and conc. H2SO4 (5 mL) was added slowly. The resulting solution was warmed to rt to effect complete dissolution of the quinoline, then cooled again to -10° C. and stirred vigorously. Fuming HNO3 (85 μL) was added dropwise, slowly, and the reaction mixture turned dark red. After 10 min, the reaction mixture was poured onto cracked ice and diluted with water (5 mL). Sat'd NaHCO3 (80 mL) was added, and the pH was adjusted to pH 9 with 3.0M NaOH. This aqueous phase was extracted with EtOAc (3×75 mL), and the combined extracts were dried (Na2SO4), and concentrated under reduced pressure to yield a dark red oil. This crude material was placed into a 250-mL rb flask with 1:1 EtOAc/EtOH (40 mL) and 10% Pd on C (approx. 1 mol %). The vessel was evacuated and flushed with nitrogen three times, then stirred under an atmosphere of hydrogen for 16 h, filtered, and concentrated under reduced pressure to yield a yellow oil, which was purified by flash chromatography (silica gel, CH2 Cl2 /methanol, 9:1), affording 210 mg (57%) of the desired product as a dark yellow oil (Rf 0.50, CH2Cl2 /MeOH, 9:1). Data for (R/S)-7-amino-4-ethyl-1,2,3,4-tetrahydroquinoline: 1H NMR (400 MHz, CDCl3) 6.81 (d, 1H, J=8.1,5-H), 6.02 (dd, 1H, J=8.0, 2.2, 6-H), 5.84 (d, 1H, J=2.3, 8-H), 3.48 (s, 2H, NH2), 3.27 (ddd, 1H, J=11.1, 11.1, 3.5, 2-H), 3.20 (ddd, 1H, J=9.8, 5.3, 4.5, 2-H), 2.55 (dddd, 1H, J=10.2, 5.2, 5.2, 5.2, 4H), 1.90 (dddd, 1H, J=9.6, 9.6, 9.6, 4.7, 3-H), 1.72 (m, 2H, 3-H, CH2CH3), 1.48 (m, 1H, CH2CH3), 0.96 (t, 3H, J=7.4, CH3).

reactant | (R/S)-4-ethyl-1,2,3,4-tetrahydroquinoline | 2.1 mmol, 340 mg | C(C)C1CCNC2=CC=CC=C12 | C11H15N
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | HNO3 | 85 μL | [N+](=O)(O)[O-] | HNO3
reactant | NaHCO3 | 80 mL | C(=O)(O)[O-].[Na+]
reactant | NaOH | 3.0M | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
catalyst | Pd | [Pd] | Pd
solvent | EtOAc EtOH | 40 mL | CCOC(=O)C.CCO
product | (R/S)-7-Amino-4-ethyl-1,2,3,4-tetrahydroquinoline | 210 mg, 57% | NC1=CC=C2C(CCNC2=C1)CC | C11H16N2
